### PR TITLE
Fermat little theorem

### PR DESCRIPTION
**Pull request by thery**
##### Motivation for this change

There are generalized versions in cyclic and finfield but a basic version would be good I think.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [ ] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/binomial.v [hunk 1]
```diff
@@ -333,6 +333,26 @@ Proof.
 by apply/eqP; elim/big_rec2: _ => // i m n _; rewrite modnDml eqn_modDl.
 Qed.
 
+Lemma prime_modn_expSn p n : prime p -> n.+1 ^ p = (n ^ p).+1 %[mod p].
```
Comment (pi8027) [inline mathcomp/ssreflect/binomial.v]: Here is a simpler proof of `prime_modn_expSn`:
```
case: p => // p pP.
rewrite -[(_ ^ _).+1]addn0 (expnDn 1) big_ord_recr big_ord_recl /=.
rewrite subnn binn exp1n !mul1n addnAC -modnDmr; congr ((_ + _) %% _).
apply/eqP/dvdn_sum => -[i ?] _; exact/dvdn_mulr/prime_dvd_bin.
```

Comment (thery) [reply mathcomp/ssreflect/binomial.v]: :+1:
